US05082848
2-Methoxymethylaniline (1.0 g, 7.2 mmol) and 3-butyryl-4-chloro-8-methoxyquinoline (1.9 g, 7.2 mmol) were heated together under reflux in 1,4-dioxan (50 ml) for 2 hours. The solvent was evaporated and the residue dissolved in dichloromethane, washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated. Recrystallisation from ethanol-water afforded 3-butyryl-4-(2-methoxymethyl-phenylamino)-8-methoxyquinoline, m.p. 128°-30°.

reactant | 2-Methoxymethylaniline | 7.2 mmol, 1.0 g | COCC1=C(N)C=CC=C1 | C8H11NO
reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 7.2 mmol, 1.9 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-methoxymethyl-phenylamino)-8-methoxyquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)COC)OC | C22H24N2O3
